US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 4-methyl-thiophene-3-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-[1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-amine. LC-MS m/e 321(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 4-methyl-thiophene-3-boronic acid | CC=1C(=CSC1)B(O)O | C5H7BO2S
product | (5-methyl-1H-pyrazol-3-yl)-[1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)C1=CSC=C1C | C18H16N4S
